US06107310
Saturated aqueous potassium carbonate solution (200 ml) was added to a stirred solution of ethyl (R)-5-(2,3-epoxypropoxy)-4-formyloxyindole-2-carboxylate (22.0 g; prepared in a similar manner to that described above) in tetrahydrofuran (250 ml) and the mixture was stirred at room temperature for 72 hours. The mixture was poured into water (1000 ml) and extracted with ethyl acetate (4×400 ml). The combined extracts were dried over sodium sulphate and the solvent evaporated under reduced pressure to give ethyl (S)-2,3-dihydro-2-(hydroxymethyl)-7H-1,4-dioxino[2,3-e]indole-8-carboxylate (17.65 g) as a pale purple solid; m.p. 152-153° C.

reactant | potassium carbonate | 200 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl (R)-5-(2,3-epoxypropoxy)-4-formyloxyindole-2-carboxylate | O1[C@@H](COC=2C(=C3C=C(NC3=CC2)C(=O)OCC)OC=O)C1 | C15H15NO6
reactant | water | 1000 ml | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | ethyl (S)-2,3-dihydro-2-(hydroxymethyl)-7H-1,4-dioxino[2,3-e]indole-8-carboxylate | 17.65 g | OC[C@H]1COC=2C(=C3C=C(NC3=CC2)C(=O)OCC)O1 | C14H15NO5
